US04834907
4-n-Octyloxy-4'-acetylbiphenyl (38.5 g, 0.119 mol), formic acid (23.8 g, 5.17 mols) and toluene (200 ml) were heated to 60° C., followed by dropwise adding a 35% H2O2 aqueous solution (160.7 g, 1.04 mol) over 1.5 hour while keeping the liquid temperature at 70°~75° C., thereafter heating at 60°~70° C. for 3 hours with stirring, cooling down to room temperature, extracting with toluene (1.5 l), washing with water till the washing water became neutral, drying, removing toluene, adding ethanol (200 ml), heating under reflux, somewhat cooling, adding a 40% NaOH aqueous solution (80 ml ), again heating under reflux for 2 hours, pouring the solution in 6N hydrochloric acid (1 l), stirring, collecting the resulting solids by suction filtering, adding toluene (300 ml), withdrawing water and recrystallizing to obtain 4-hydroxy-4'-n-octyloxybiphenyl (18.5 g). Yield: 50.6%. M.P.: 153.6° C.

reactant | 4-n-Octyloxy-4'-acetylbiphenyl | 0.119 mol, 38.5 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O | C22H28O2
reactant | formic acid | 5.17 mols, 23.8 g | C(=O)O | CH2O2
reactant | H2O2 | 1.04 mol, 160.7 g | OO | H2O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxy-4'-n-octyloxybiphenyl | 18.5 g, Yield: 50.6% | OC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCC | C20H26O2
